US05053509
A suspension of 1-cyclopropyl-3-ethoxycarbonyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (2 g) and (RS)-3-(4-methoxyphenyl)piperazine (2.3 g) in dimethyl sulphoxide (20 cc) is heated to a temperature in the region of 90° C. for 1 hour and a half. After cooling to approximately 20° C., the insoluble matter is drained, washed with water (3×15 cc) and recrystallized in a mixture of ethanol (100 cc) and dimethylformamide (25 cc). (RS)-1-Cyclopropyl-3-ethoxycarbonyl-7-fluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (2.1 g) is obtained in the form of a yellow solid, m.p. 199° C.

reactant | 1-cyclopropyl-3-ethoxycarbonyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 2 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)F)=O)C(=O)OCC | C18H14F2N2O3
reactant | (RS)-3-(4-methoxyphenyl)piperazine | 2.3 g | COC1=CC=C(C=C1)C1CNCCN1 | C11H16N2O
solvent | dimethyl sulphoxide | 20 cc | CS(=O)C | C2H6OS
product | (RS)-1-Cyclopropyl-3-ethoxycarbonyl-7-fluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 2.1 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C3=CC=C(C=C3)OC)=O)C(=O)OCC | C29H29FN4O4
